US20010021775A1
Acylation of N-Boc-piperazine (1.86 g, 10 mmoL) with benzylsulfonyl chloride (1.9 g, 10 mmol) in CH3CN (20 mL) in the presence of Na2CO3 (1.01 g, 12 mmol) was carried out at rt for 16 hours. The mixture was diluted with EtOAc (150 mL), washed with water (50 mL), dried over MgSO4, and concentrated to give 1N-Boc-4N-benzylsulfonyl-piperazine (3.3 g, 98%). 1H NMR (CDCl3) δ7.39 (bs, 5H), 4.23 (s, 2H), 3.38-3.35 (m, 4H), 3.07-3.05 (m, 4H), 1.44 (s, 9H). The Boc-intermediate was deprotected with 4M HCl in dioxane (20 mL) at rt for 1 hour. The mixture was diluted with EtOAc, washed with 1N NaOH and water, dried over MgSO4, and concentrated to give the product (1.9 g, 81%). 1H NMR (CDCl3) δ7.46-7.43 (bs, 5H), 4.22 (s, 2H), 3.11-3.08 (m, 4H), 2.83-2.79 (m, 4H).

reactant | N-Boc-piperazine | 1.86 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | benzylsulfonyl chloride | 10 mmol, 1.9 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | Na2CO3 | 12 mmol, 1.01 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | Boc-4N-benzylsulfonyl-piperazine | 3.3 g, 98% | C(=O)(OC(C)(C)C)N1CCN(CC1)S(=O)(=O)CC1=CC=CC=C1 | C16H24N2O4S
